US06916982B2
2,6-Bis[2-(trimethylsilyl)ethynyl]benzaldehyde (12).
Following the method described by Buchwald and Fu (Hundertmark, T. et al., Org. Lett. 2000, 12, 1729-1731), samples of 2,6-dichlorobenzaldehyde (3.56 g, 20.4 mmol), Pd(PhCN)2Cl2 (468 mg, 1.22 mmol), and CuI (155 mg, 814 μmol) were placed in a Schlenk flask. Diisopropylamine (6.7 mL), dioxane (30 mL), and P(t-Bu)3 (494 mg, 2.44 mmol) were placed in a Schlenk flask and sparged of oxygen for 10 min, then added to the Schlenk flask. The flask was placed in an oil bath heated to 70° C. After 5 min, (trimethylsilyl)acetylene (7.19 mL, 50.9 mmol) was added and the mixture was stirred at 70° C. for 4 h. Removal of an aliquot and analysis by GC showed mono and di-coupled products in a nearly 1:1 ratio. An additional equivalent of (trimethylsilyl) acetylene (2.9 mL, 20.4 mmol) was added. After 24 h at 70° C., GC analysis showed no mono-coupled product. The mixture was cooled to room temperature, then filtered through a pad of silica. Kugelrohr distillation (110° C., 0.1 Torr) followed by column chromatography (silica, toluene) afforded a yellow oil (2.22 g, 37%): 1H NMR δ0.27 (s, 18H), 7.40-7.43 (m, 1H), 7.51 (d, J=8.0Hz, 2H), 10.63 (s, 1H); 13C NMR δ−0.0, 101.5, 102.5, 125.2, 132.3, 134.4, 137.2, 190.6; FAB-MS obsd 299.1267, calcd 299.1287; Anal Calcd. for C17H22OSi2: C, 68.40; H, 7.43; Found: C, 67.94; H, 7.36.

reactant | 2,6-dichlorobenzaldehyde | 20.4 mmol, 3.56 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | Diisopropylamine | 6.7 mL | C(C)(C)NC(C)C | C6H15N
reactant | P(t-Bu)3 | 2.44 mmol, 494 mg | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | (trimethylsilyl)acetylene | 50.9 mmol, 7.19 mL | C[Si](C)(C)C#C | C5H10Si
reactant | (trimethylsilyl) acetylene | 20.4 mmol, 2.9 mL | C[Si](C)(C)C#C | C5H10Si
catalyst | Pd(PhCN)2Cl2 | 1.22 mmol, 468 mg | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
catalyst | CuI | 814 μmol, 155 mg | [Cu]I
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 2,6-Bis[2-(trimethylsilyl)ethynyl]benzaldehyde | 2.22 g, 37% | C[Si](C#CC1=C(C=O)C(=CC=C1)C#C[Si](C)(C)C)(C)C | C17H22OSi2
